US08420631B2
3-tert-Butoxycarbonyl-7-chloro-6-(2-thiazol-2-yl-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-(thiazol-2-ylethynyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (160 mg, 0.41 mmol) in ethanol (10 mL) to a suspension of 10% Pd/C (Degussa type E101, 160 mg), then acetic acid (0.5 mL). Hydrogenate for 7 h (68-70 psi) then filter the catalyst through Celite® and concentrate in vacuo. Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 4:1 gradient over 40 min) to obtain the desired intermediate (16 mg, 10%). MS (ES+) m/z: 393 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(thiazol-2-ylethynyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.41 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#CC=2SC=CN2 | C20H21ClN2O2S
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 3-tert-Butoxycarbonyl-7-chloro-6-(2-thiazol-2-yl-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 16 mg, 10% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCC=2SC=CN2 | C20H25ClN2O2S
